US07705004B2
To a mixture of 2,4-dichloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine (1.5 g, 3.2 mmol) in n-butyl alcohol (12 mL) was added 6-aminoindazole (0.47 g, 3.52 mol) and DIPEA (0.86 mL, 4.80 mmol). After heating at 45° C. for 15 h, the mixture was cooled to room temperature, and the resulting precipitates were collected by filtration to give 2-chloro-N-(1H-indazol-6-yl)-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (1.1 g).

reactant | 2,4-dichloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine | 3.2 mmol, 1.5 g | ClC=1N=C(C2=C(N1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)Cl | C13H8Cl2IN3O2S
reactant | 6-aminoindazole | 3.52 mol, 0.47 g | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | DIPEA | 4.80 mmol, 0.86 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butyl alcohol | 12 mL | C(CCC)O | C4H10O
product | 2-chloro-N-(1H-indazol-6-yl)-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 1.1 g | ClC=1N=C(C2=C(N1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC=C1C=NNC1=C2 | C20H14ClIN6O2S
